US06060469
1-[3-Bromo-4-(trifluoromethoxy)phenyl]-1H-pyrazole
Sodium nitrite (359 mg, 5.2 mmol) in water (5 ml) was added dropwise to a stirred, cooled (0° C.) suspension of 3-bromo-4-trifluoromethoxyaniline (Description 19) (1.02 g, 4 mmol) in aqueous hydrochloric acid (37%, 10 ml). The mixture was stirred at 0° C. for 30 min., then added dropwise to a stirred, cooled (-5° C.) suspension of tin (II) chloride dihydrate (4.06 g, 18 mmol) in aqueous hydrochloric acid (37%, 10 ml). The mixture was stirred at 0° C. for 30 min., then at room temperature for 30 min. The mixture was poured into cooled (0° C.) aqueous sodium hydroxide (4M, 200 ml) and extracted with ethyl acetate (3×100 ml). The combined organic fractions were washed with aqueous sodium hydroxide (4M, 2×100 ml) and brine (100 ml), dried (MgSO4) and evaporated under reduced pressure. The residue was dissolved in ethanol (10 ml), cooled in ice and ethanolic hydrogen chloride (5M, 0.76 ml, 3.8 mmol) was added. The solvent was evaporated under reduced pressure, ethanol (50 ml) and malonaldehyde bis(dimethyl acetal) (0.63 ml, 0.62 g, 3.8 mmol) were added. The mixture was heated under reflux for 30 min., cooled and the solvent was evaporated under reduced pressure. Saturated aqueous sodium hydrogen carbonate (50 ml) and water (20 ml) were added and the mixture was extracted with ethyl acetate (3×50 ml). The combined organic fractions were washed with brine (50 ml), dried (MgSO4) and evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (92:8) to give the title compound as a yellow oil (801 mg, 65%). 1H NMR (360 MHz, CDCl3) δ 8.04 (1H, d, J=2.6 Hz), 7.90 (1H, d, J=2.4 Hz), 7.74 (1H, d, J=1.8 Hz), 7.68 (1H, dd, J=8.9, 2.6 Hz), 7.39 (1H, d, J=8.9 Hz), and 6.50 (1H, dd, J=2-4, 1.8 Hz). m/z (ES+) 307, 309 (M+1).

reactant | Sodium nitrite | 5.2 mmol, 359 mg | N(=O)[O-].[Na+]
reactant | 3-bromo-4-trifluoromethoxyaniline | 4 mmol, 1.02 g | BrC=1C=C(N)C=CC1OC(F)(F)F | C7H5BrF3NO
reactant | tin (II) chloride dihydrate | 18 mmol, 4.06 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 4M, 200 ml | [OH-].[Na+]
reactant | malonaldehyde bis(dimethyl acetal) | 3.8 mmol, 0.63 ml, 0.62 g | COC(CC(OC)OC)OC | C7H16O4
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | hydrogen chloride | 3.8 mmol, 5M, 0.76 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[3-Bromo-4-(trifluoromethoxy)phenyl]-1H-pyrazole | 801 mg, 65% | BrC=1C=C(C=CC1OC(F)(F)F)N1N=CC=C1 | C10H6BrF3N2O
